US05817599
Synthesis of 11-(hexadecylthio)undecanohydrazide
22.1 Grams of 11-(hexadecylthio)undecanoic acid, 1.0 g of p-toluenesulfonic acid monohydrate and 200 ml of n-propanol were charged in a flask equipped with a stirrer, a condenser and a calcium chloride drying tube and refluxed with heating for 4 hours. Thereafter, to the solution was added 12.5 g of hydrazine monohydrate, followed by refluxing with heating for further 20 hours. The reaction mixture was cooled to room temperature and the precipitated crystal was filtered off under reduced pressure and washed with distilled water. The crystal was recrystallized from 2-propanol to obtain 16.0 g of the desired product. m.p. 108° C.

reactant | 11-(hexadecylthio)undecanoic acid | C(CCCCCCCCCCCCCCC)SCCCCCCCCCCC(=O)O | C27H54O2S
reactant | p-toluenesulfonic acid monohydrate | 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | hydrazine monohydrate | 12.5 g | O.NN
solvent | n-propanol | 200 ml | C(CC)O | C3H8O
product | 11-(hexadecylthio)undecanohydrazide | 16.0 g | C(CCCCCCCCCCCCCCC)SCCCCCCCCCCC(=O)NN | C27H56N2OS
